Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left subacute subdural hematoma
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ is a ___ year old male who presented to the 
Emergency Department on ___ as a transfer from an outside 
facility after an outpatient MRI of the brain revealed at left 
sided subacute subdural hematoma. Of note, the patient is 
followed by a neurologist for a three year history of falls, 
ataxia, and weakness. The neurologist ordered an MRI of the 
brain for further evaluation of these symptoms. The patient was 
referred to the Emergency Department at an outside facility 
given the findings on the MRI of the brain. He was subsequently 
transferred to ___ for 
escalation of care. The Neurosurgery Service was consulted for 
question of acute neurosurgical intervention.
 
Past Medical History:
- alcohol abuse
- anxiety
- ataxia
- cocaine abuse
- depression
- gastroesophageal reflux disease
- recent admission at ___ on ___ for 
Wernicke-Korsakoff Syndrome
 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
On Admission:
-------------
Physical Exam:

Vital Signs: T 97.8F, HR 60, BP 141/81, RR 17, O2Sat 98% on room 
air

___ Coma Scale at the Scene: 15

___ Coma Scale Upon Neurosurgical Evaluation: 15       

Time of Neurosurgical Evaluation: ___ 15:00

Airway: 
[ ]Intubated   
[x]Not intubated

Eye Opening: 
[ ]1 Does not open eyes
[ ]2 Opens eyes to painful stimuli
[ ]3 Opens eyes to voice
[x]4 Opens eyes spontaneously

Verbal:
[ ]1 Makes no sounds
[ ]2 Incomprehensible sounds
[ ]3 Inappropriate words
[ ]4 Confused, disoriented
[x]5 Oriented

Motor:
[ ]1 No movement
[ ]2 Extension to painful stimuli (decerebrate response)
[ ]3 Abnormal flexion to painful stimuli (decorticate response)
[ ___ Flexion/withdrawal to painful stimuli 
[ ]5 Localizes to painful stimuli
[x]6 Obeys commands

Total: 15

Exam:

General: Well nourished, comfortable, no acute distress.
Extremities: Warm and well perfused.

Neurologic:
Mental Status: Awake, alert, cooperative with exam, normal 
affect.
Orientation: Oriented to person, place, and date.
Language: Speech is slow, slight dysarthria with pauses.

Cranial Nerves:
I: Not tested.
II: Pupils equally round and reactive to light, 3-2mm, 
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without 
nystagmus.
V, VII: Slight left facial droop. Sensation intact and 
symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements, 
tremors. Strength ___ throughout. No drift.

Sensation: Intact to light touch.

On Discharge:
-------------
Tmax 98, HR 50-70, BP 130-150/90-105, RR 15, 100% RA

Bowel Regimen: [x]Yes [ ]No

Exam:

Opens Eyes: [x]Spontaneous [ ]To voice [ ]To noxious
Orientation: [x]Person [x]Place [x]Time
Follows Commands: [ ]Simple [x]Complex [ ]None
Pupils:  PERRL 3-2mm
Extraocular Movements: [x]Full [ ]Restricted
Face Symmetric: [ ]Yes [x]No - Slight left facial droop,
activates symmetrically
Tongue Midline: [x]Yes [ ]No
Drift: [ ]Yes [x]No
Speech Fluent: [ ]Yes [x]No - Slow, slightly dysarthric speech
with pauses
Comprehension Intact: [x]Yes [ ]No

Motor:
Trapezius   Deltoid   Biceps   Triceps   Grip
Right5           5         5        5 5
Left5           5         5        5         5 

IP   Quadriceps   Hamstring   AT   ___   Gastrocnemius
Right5    5            5           5    5     5
Left5    5            5           5    5     5

[x]Sensation intact to light touch

Right Groin:
Dressing intact with old staining. No hematoma noted. Distal
pulses palpated. 

 
Pertinent Results:
Please see ___ Record for relevant laboratory and 
imaging results.
 
Brief Hospital Course:
___ year old male found to have a left sided subacute subdural 
hematoma.

#Left Sided Subacute Subdural Hematoma
The patient was admitted for close neurologic monitoring. Repeat 
CT of the head was stable. The patient went to the angiography 
suite on ___ for embolization of the left middle meningeal 
artery. Patient tolerated the procedure well and was transferred 
to the PACU post-procedure to recover. Once recovered patient 
was transferred to the ___ for further care and neurological 
monitoring. Patient was on bedrest for 2 hours post-procedure to 
allow the right groin site to heal. Patient activity status was 
liberated and patient without hematoma or complaints of pain. 
Patient remained hemodynamically and neurologically stable and 
was transferred to the floor. The patient was medically clear 
for discharge home on ___ with 1 week follow-up in clinic with 
CT.

#Disposition
Physical Therapy was consulted and recommend discharge home 
without services; outpatient ___ script previously written from 
___ per patient report.

 
Medications on Admission:
- fish oil
- multivitamin
- omeprazole 20mg PO BID
- Topamax 25mg PO BID
- Zoloft 75mg PO daily
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q6hr Disp #*28 Tablet 
Refills:*0 
4.  Multivitamins 1 TAB PO DAILY  
5.  Omeprazole 40 mg PO BID  
6.  Sertraline 75 mg PO DAILY  
7.  Topiramate (Topamax) 25 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left subacute subdural hematoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Procedure- meningeal artery embolization:
Care of the Puncture Site
• You will have a small bandage over the site on your groin.
• Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
• Keep the site clean with soap and water and dry it carefully.
• You may use a band-aid if you wish.

What You ___ Experience:
• Mild tenderness and bruising at the puncture site (groin).
• Soreness in your arms from the intravenous lines.
• Mild to moderate headaches that last several days to a few 
weeks.
• Fatigue is very normal
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Activity:
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 
• You were seen by the Physical Therapist while you were here at 
___. They are recommending outpatient ___ you have already 
received a prescription for outpatient ___ from ___.

Medications:
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
• You may have difficulty paying attention, concentrating, and 
remembering new information.
• Emotional and/or behavioral difficulties are common. 
• Feeling more tired, restlessness, irritability, and mood 
swings are also common.

Headaches:
• Headache is one of the most common symptoms after a brain 
bleed. 
• Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
• Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
• There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the groin 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason
 
Followup Instructions:
___